simulator lang=spectre
global 0

ahdl_include "./dut/bbpd_ref.va"

Vdata (data 0) vsource type=pwl wave=[ \
    0 0 \
    9.9n 0 10.0n 0.9 \
    19.9n 0.9 20.0n 0 \
    29.9n 0 30.0n 0.9 \
    39.9n 0.9 40.0n 0 \
    49.9n 0 50.0n 0.9 \
    59.9n 0.9 60.0n 0 \
    70n 0 \
]
Vclk (clk 0) vsource type=pwl wave=[ \
    0 0.9 \
    12.0n 0.9 12.1n 0 \
    28.0n 0 28.1n 0.9 \
    42.0n 0.9 42.1n 0 \
    52.0n 0 52.1n 0.9 \
    58.0n 0.9 58.1n 0 \
    70n 0 \
]
Vretimed_data (retimed_data 0) vsource type=pwl wave=[ \
    0 0 \
    18.0n 0 18.1n 0.9 \
    34.0n 0.9 34.1n 0 \
    48.0n 0 48.1n 0.9 \
    56.0n 0.9 56.1n 0 \
    70n 0 \
]

XDUT (data clk retimed_data up down) bbpd_ref


simulatorOptions options evas_profile=balanced

tran tran stop=70n maxstep=20p
save data clk retimed_data up down
